US07049313B2
[5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-9H-thioxanthen-2-yl]-carbamic acid tert-butyl ester
(5-Trifluoromethanesulfonyl-9H-thioxanthen-2-yl)-carbamic acid tert-butyl ester (3.31 g, 7.17 mmol), bis(pinacolato)diboron (2.18 g, 8.6 mmol) and potassium acetate (2.11 g, 21.5 mmol) in 1,4-dioxane (20 ml) was degassed for 15 minutes. To the yellow suspension was then added PdCl2(dppf) (293 mg, 0.36 mmol) and dppf (199 mg, 0.36 mmol). The dark red mixture was heated to 90° C. under a N2 atmosphere for 48 hours. The crude mixture was purified by flash chromatography (dichloromethane) to give viscous brown oil (3.15 g), which was used without any further purification.

reactant | (5-Trifluoromethanesulfonyl-9H-thioxanthen-2-yl)-carbamic acid tert-butyl ester | 7.17 mmol, 3.31 g | C(C)(C)(C)OC(NC1=CC=2CC3=CC=CC(=C3SC2C=C1)S(=O)(=O)C(F)(F)F)=O | C19H18F3NO4S2
reactant | bis(pinacolato)diboron | 8.6 mmol, 2.18 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 21.5 mmol, 2.11 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.36 mmol, 293 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 0.36 mmol, 199 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | [5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-9H-thioxanthen-2-yl]-carbamic acid tert-butyl ester | 3.15 g | C(C)(C)(C)OC(NC1=CC=2CC3=CC=CC(=C3SC2C=C1)B1OC(C(O1)(C)C)(C)C)=O | C24H30BNO4S
